US06911462B2
Bis-4-methoxyclohexyl carbonyl benzimidazole was synthesized as follows: Oxalyl chloride, (1.07. ml, 2 M in CH2Cl2) was added to 4-methoxy-cyclohexane carboxylic acid (0.338 g, 2.14 mmole) followed by one drop DMF. The mixture was allowed to react at RT for 1.0 hour. To the above solution was added 2-(4-aminophenyl)-6-amino-benzimidazole (0.200 g, 0.89 mmole) in pyridine (2 ml). The reaction was heated to 60° C. overnight. The reaction was cooled and the precipitate filtered and washed with NaHCO3 and hexanes.

reactant | Oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-methoxy-cyclohexane carboxylic acid | 2.14 mmole, 0.338 g | COC1CCC(CC1)C(=O)O | C8H14O3
reactant | 2-(4-aminophenyl)-6-amino-benzimidazole | 0.89 mmole, 0.200 g | NC1=CC=C(C=C1)C=1NC2=C(N1)C=C(C=C2)N | C13H12N4
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | carbonyl benzimidazole | C(=O)=C1N=C2C(=N1)C=CC=C2 | C8H4N2O
